US05112863
4-hydroxyphenyldimethylsulfomethyl sulfate 2.66 g (0.01 mol) was heated and dissolved in 40 ml of acetonitrile. Docosahexaenoic acid 3.28 g (0.01 mol) was added to the solution obtained in a stream of nitrogen, and the mixture was stirred at 0° C. To the mixture solution, dicyclohexyl carbodiimide 2.06 g (0.01 mol) was added little by little, and the solution was stirred for 2 hours at 0° C. and then for 2 hours at room temperature. The solution reacted was filtered to remove dicyclohexyl urea, and the filtrate was distilled in vacuo to obtain oily residue. D-alanine 0.89 g (0.01 mol) and triethyl amine 1.4 ml (0.01 mol) were added to 10 ml of water. An acetonitrile solution of the above oily residue was added to the mixture with stirring, and stirred for 10 hours at room temperature. After reaction, the reaction mixture was concentrated under reduced pressure. The concentrate was adjusted to pH 2 or 3 with 6N-HCl, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous sodium acetate, and freed of solvent in vacuo. The oily residue obtained was purified by column chromatography (column: 2.5×15 cm) on 50 g of silica gel and N-docosahexaenoyl-D-alanine 1.6 g was obtained.

reactant | 4-hydroxyphenyldimethylsulfomethyl sulfate | 0.01 mol, 2.66 g | S(=O)(=O)(OC(S(=O)(=O)OC1=CC=C(C=C1)O)(C)C)[O-]
reactant | Docosahexaenoic acid | 0.01 mol, 3.28 g | C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)O | C22H32O2
reactant | dicyclohexyl carbodiimide | 0.01 mol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | D-alanine | 0.01 mol, 0.89 g | N[C@H](C)C(=O)O | C3H7NO2
reactant | triethyl amine | 0.01 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | N-docosahexaenoyl-D-alanine | 1.6 g | C(C=CC=CC=CC=CC=CC=CCCCCCCCCC)(=O)N[C@H](C)C(=O)O | C25H37NO3
